US04705847
In Tetrahedron Letters 1970, 4579-82, J. H. Wieringa, J. Strating and H. Wynberg describe a process in which adamantylidene adamantane is reacted with chlorine is tetrachloromethane at a temperature of -20° to +10° C. to form 4-eq.-chloroadamantylidene adamantane in addition to polychlorinated products. The chloro-substituted adamantane compound is the starting point for further reaction in the presence of AgNO3 and THF/H2O to form a mixture of the corresponding 4-hydroxy-adamantylidene adamantane compounds, which with the appropriate oxidant (Jones reagent: CrO3, H2SO4, acetone) are finally converted into the corresponding ketone compound, in which the carbonyl group is in the 4-position.

reactant | adamantylidene adamantane | C12C(C3CC(CC(C1)C3)C2)=C2C3CC1CC(CC2C1)C3 | C20H28
reactant | chlorine | ClCl | Cl2
solvent | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
product | chloroadamantylidene adamantane | ClC12C(C3CC(CC(C1)C3)C2)=C2C3CC1CC(CC2C1)C3 | C20H27Cl
